US08461179B1
A solution of 3-fluoro-5-nitrotoluene (1.0 g, 6.45 mmol) in trifluorotoluene (15 ml) was treated with NBS (1.721 g, 9.67 mmol) and AIBN (0.212 g, 1.289 mmol) and heated at 105° C. overnight. The mixture was cooled to RT, the solids removed via filtration and the filtrate concentrated to dryness to afford 1-(bromomethyl)-3-fluoro-5-nitrobenzene (95 mg, 63% yield).

reactant | 3-fluoro-5-nitrotoluene | 6.45 mmol, 1.0 g | FC=1C=C(C=C(C1)[N+](=O)[O-])C | C7H6FNO2
reactant | NBS | 9.67 mmol, 1.721 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 1.289 mmol, 0.212 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | trifluorotoluene | 15 ml | FC(C1=CC=CC=C1)(F)F | C7H5F3
product | 1-(bromomethyl)-3-fluoro-5-nitrobenzene | 95 mg, 63% yield | BrCC1=CC(=CC(=C1)[N+](=O)[O-])F | C7H5BrFNO2
